US05426119
Methyl 5-(2-(4-chlorobenzenesulphonylamino)indan-5-yl)-5-(3-pyridyl)-pent-4-enoat
3.7 g of 5-(2-(4-chlorobenzenesulphonylamino)indan-5-yl)-5-(3-pyridyl)pent-4-enoic acid are dissolved in 30 ml of methanol into which dry hydrogen chloride is introduced. The solution is stirred overnight and then rotary evaporated. Whilst cooling with ice, the base is liberated with aqueous potassium carbonate solution and then extracted with methylene chloride. The solution is rotary evaporated and the residue is chromatographed over a silica gel column.

reactant | 5-(2-(4-chlorobenzenesulphonylamino)indan-5-yl)-5-(3-pyridyl)pent-4-enoic acid | 3.7 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(=CCCC(=O)O)C=1C=NC=CC1 | C25H23ClN2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 30 ml | CO | CH4O
solvent | hydrogen chloride | Cl | ClH
product | Methyl 5-(2-(4-chlorobenzenesulphonylamino)indan-5-yl)-5-(3-pyridyl)-pent-4-enoat | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(=CCCC(=O)OC)C=1C=NC=CC1 | C26H25ClN2O4S
